US05079251
A stirred suspension of 5-carbamoylpyrazin-2-one (Chem. Pharm. Bull., 1980, 28, 3057; 0.28 g) in dry 1,4-dioxane (5 ml) was cooled to 5° C. prior to adding dry pyridine (0.65 ml). Trifluoroacetic anhydride (0.3 ml) was added dropwise and the reaction mixture allowed to warm to 10° C. After stirring at room temperature for 1 hour the reaction mixture became a slurry and additional trifluoroacetic anhydride (0.25 ml) and pyridine (0.5 ml) was added to give a brown solution. After an additional 1 hour at 10° C. the reaction mixture was added dropwise to methanol and the reaction mixture evaporated under reduced pressure to give a brown gum. The gum was treated with brine and extracted with ethylacetate. The organic phase was washed with dilute hydrochloric acid, brine and dried with sodium sulphate and evaporated under reduce pressure to give an oil that solidified upon scratching to give 5-cyanopyrazin-2-one as a brown solid.

reactant | 5-carbamoylpyrazin-2-one | 0.28 g | C(N)(=O)C=1N=CC(NC1)=O | C5H5N3O2
reactant | pyridine | 0.65 ml | N1=CC=CC=C1 | C5H5N
reactant | Trifluoroacetic anhydride | 0.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic anhydride | 0.25 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | methanol | CO | CH4O
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | 5-cyanopyrazin-2-one | C(#N)C=1N=CC(NC1)=O | C5H3N3O
